US07452886B2
Butane-1-sulfonic acid {4-[2-cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-phenyl}-amide
To a solution of 6-(4-amino-benzyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (0.3 mmol) in CH2Cl2 (5 ml) are slowly added triethylamine (0.36 mmol) and 1-butanesulfonyl chloride (0.36 mmol) at 0° C. The reaction mixture is stirred at room temperature for 15 h. The mixture is quenched with saturated ammonium chloride and extracted with two 50 ml portions of CH2Cl2. The combined extracts are washed with brine, dried over sodium sulfate and concentrated under vacuum to give crude product. Purification of the residue by silica gel column chromatography affords title compound in 39% yield.

reactant | 6-(4-amino-benzyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.3 mmol | NC1=CC=C(CC2=CC3=C(N=C(N=C3)C#N)N2CC(C)(C)C)C=C1 | C19H21N5
reactant | triethylamine | 0.36 mmol | C(C)N(CC)CC | C6H15N
reactant | 1-butanesulfonyl chloride | 0.36 mmol | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | Butane-1-sulfonic acid {4-[2-cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-phenyl}-amide | 39% yield | C(#N)C=1N=CC2=C(N1)N(C(=C2)CC2=CC=C(C=C2)NS(=O)(=O)CCCC)CC(C)(C)C | C23H29N5O2S
